US04120856
A slurry of 0.20 g (0.08 mole) of sodium hydride in 10 ml of tetrahydrofuran was added to a solution of 1.74 g (0.0058 mole) of 3-fluoro-1,3-dihydro-7-nitro-5-phenyl-2H-1,4-benzodiazepin-2-one and 10 ml methyl iodide in 100 ml of tetrahydrofuran at 25°. The reaction mixture was stirred for 3 hr at 25°, and then poured into 300 ml of ice water. The aqueous mixture was extracted with methylene chloride, and the extracts were dried (MgSO4) and then evaporated to dryness under reduced pressure. The residue was dissolved in hot benzene and then fractionally precipitated by the addition of hexane. The first dark fractions of solid were discarded. The remaining fractions were collected on a filter and dried in vacuum to give 1.10 g (60%) of 3-fluoro-1,3-dihydro-1-methyl-7-nitro-5-phenyl-2H-1,4-benzodiazepin-2-one as a light tan amorphous solid with no distinct melting point: 1H nmr (CDCl3) δ 3.53 ppm (s, 3H), 5.59 ppm (d, J = 57 Hz, 1H), 7.2-7.9 ppm (m, 6H) and 8.2-8.9 ppm (m, 2H); 19F nmr (CDCl3) δ -161.7 ppm (d, J = 57 Hz).

reactant | sodium hydride | 0.08 mole, 0.20 g | [H-].[Na+]
reactant | 3-fluoro-1,3-dihydro-7-nitro-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.0058 mole, 1.74 g | FC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)[N+](=O)[O-])=O | C15H10FN3O3
reactant | methyl iodide | 10 ml | CI | CH3I
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-fluoro-1,3-dihydro-1-methyl-7-nitro-5-phenyl-2H-1,4-benzodiazepin-2-one | 1.10 g, 60% | FC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)[N+](=O)[O-])C)=O | C16H12FN3O3
